US04978665
4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-amino-3(2H)pyridazinone (Compound No. 23)
1.00 g of 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone (Compound No. 22) prepared in Example 2, was dissolved in a solvent mixture of 20 ml of ethanol and 20 ml of a 10% sodium carbonate aqueous solution, 3.30 g of sodium hydrosulfite was gradually added thereto at room temperature under stirring. The mixture was stirred at room temperature for 1 hour, and was neutralized with glacial acetic acid. Then, ethanol was distilled off under reduced pressure, and water was added to the residue thereby obtained. The mixture was extracted with chloroform. The extract was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. Then, the solvent was distilled off to obtain light yellow crystals This product was crystallized from a solvent mixture of methanol-diethyl ether, to obtain 634 mg of the above identified compound having a melting point of from 187.5° to 189.5° C. as colorless crystals

reactant | 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-nitro-3(2H)pyridazinone | 1.00 g | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCC)[N+](=O)[O-])=O | C15H17ClN4O5
reactant | sodium hydrosulfite | 3.30 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-chloro-5-(3-n-propoxy-4-methoxybenzylamino)-6-amino-3(2H)pyridazinone | ClC=1C(NN=C(C1NCC1=CC(=C(C=C1)OC)OCCC)N)=O | C15H19ClN4O3
